US04001419
A mixture of 1'-phenoxycarbonylxanthene-9-spiro-4'-piperidine (370 mg.), ethanol (80 ml.) and a 50% w/v solution of potassium hydroxide in water (20 ml.) is heated under reflux for 22 hours. The mixture is cooled and concentrated hydrochloric acid (20 ml.) is added and the ethanol is evaporated. The residue is washed with ether, water (50 ml.) is added and the resulting solution made alkaline with 3N sodium hydroxide. The alkaline solution is extracted with chloroform and the chloroform extract is washed with water, dried (MgSO4) and evaporated to dryness. The gummy residue is dissolved in ethanol and treated with ethereal hydrochloric acid. The solid is recrystallised from ethanol-ether to give xanthene-9-spiro-4'-piperidine hydrochloride, m.p. 248°-250° C.

reactant | 1'-phenoxycarbonylxanthene-9-spiro-4'-piperidine | 370 mg | O(C1=CC=CC=C1)C(=O)N1CCC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12 | C24H21NO3
reactant | ethanol | 80 ml | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | xanthene-9-spiro-4'-piperidine hydrochloride | Cl.N1CCC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12 | InChI=1S/C17H17NO.ClH/c1-3-7-15-13(5-1)17(9-11-18-12-10-17)14-6-2-4-8-16(14)19-15;/h1-8,18H,9-12H2;1H
